US07732452B2
Step 1: 4-[2-(4-Pyrimidin-2-yl-phenoxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester
To 4-[2-(4-Iodo-phenoxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester (77.6 mg) in DMF (1 mL) was added 2-(tributylstannyl)pyrimidine (74.1 mg), tris(dibenzylideneacetone)-di-Palladium, triphenylarsine (27 mg) and copper (I) iodide (3.2 mg) and the reaction mixture was stirred at 90° C. overnight. The reaction mixture was then allowed to cool to room temperature and was concentrated in vacuo. To the residue was then added ethylacetate (4 mL) and an aqueous solution of potassium fluoride (30%) and the mixture was stirred rigorously for one hour. Then the solid was filtered off and the biphasic filtrate was separated. The organic layer was dried with sodium sulfate and concentrated in vacuo. The residue was then purified by column chromatography to yield the title compound (41 mg, 59%).

reactant | 4-[2-(4-Iodo-phenoxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester | 77.6 mg | COC(=O)C1=CSC=C1NC(COC1=CC=C(C=C1)I)=O | C14H12INO4S
reactant | 2-(tributylstannyl)pyrimidine | 74.1 mg | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | triphenylarsine | 27 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)-di-Palladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper (I) iodide | 3.2 mg | [Cu]I
product | 4-[2-(4-Pyrimidin-2-yl-phenoxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester | 41 mg, 59% | COC(=O)C1=CSC=C1NC(COC1=CC=C(C=C1)C1=NC=CC=N1)=O | C18H15N3O4S
